US05075513
2.76 g (1.05 equivalents) methylsulphonyl chloride were added to a solution of 6.42 g (24 mmol) 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-hydroxymethylcyclopentane prepared as described in Example 2 and 2.55 g (1.1 equivalents) triethylamine in 50 ml dichloromethane at 10°-15° C. The reaction mixture was kept at 10°-15° C. for a further 2 hours and then washed with 20 ml water, then 20 ml aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulphate and flashed. Trituration with 60/80 petroleum gave 6.64 g 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-methylsulphonyloxymethylcyclopentane as a white solid, m.pt. 113°-114° C. Yield: 80%.

reactant | methylsulphonyl chloride | 2.76 g, 1.05 equivalents | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-hydroxymethylcyclopentane | 24 mmol, 6.42 g | ClC1=CC=C(CC2C(C(CC2)(C)C)(CO)O)C=C1 | C15H21ClO2
reactant | triethylamine | 2.55 g, 1.1 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-methylsulphonyloxymethylcyclopentane | 6.64 g, Yield: 80% | ClC1=CC=C(CC2C(C(CC2)(C)C)(COS(=O)(=O)C)O)C=C1 | C16H23ClO4S
